US06414126B1
To a stirred suspension of 5-bromo-2-methylbenzoic acid (1.29 g, 6 mmol) in 12 mL of CH2Cl2 containing oxalyl chloride (8 mmol) was added 2 drops of DMF. Once the vigorous evolution of gas ceased, the reaction was stirred 6 hr prior to removal of the volatiles using a rotary evaporator. After dissolving the crude 5-bromo-2-methylbenzoyl chloride in 15 ml of CS2, the stirred mixture was cooled to 4° prior to adding anisole (0.7 g, 6.6 mmol) followed by AlCl3 (1.7 g, 12 mmol). The reaction, after warming to 20° over 1 hr, was stirred for 15 hr prior to quenching with 1N HCl. Subsequently, the suspension was diluted with 50 ml H2O and stirred until all solids were in solution. The mixture was extracted 3× with EtOAc. The combined organic extracts were washed 1× with 1N HCl, H2O, aq NaHCO3, and brine prior to drying over Na2SO4. After removal of the volatiles, the resulting tan solid was recrystallized from 95% EtOH to yield 1.6 g of 5-bromo-2-methyl-4′-methoxybenzophenone.

reactant | 5-bromo-2-methylbenzoic acid | 6 mmol, 1.29 g | BrC=1C=CC(=C(C(=O)O)C1)C | C8H7BrO2
reactant | oxalyl chloride | 8 mmol | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | anisole | 6.6 mmol, 0.7 g | C1(=CC=CC=C1)OC | C7H8O
reactant | AlCl3 | 12 mmol, 1.7 g | [Al+3].[Cl-].[Cl-].[Cl-]
solvent | CH2Cl2 | 12 mL | C(Cl)Cl | CH2Cl2
catalyst | DMF | 2 drops | CN(C)C=O | C3H7NO
product | 5-bromo-2-methyl-4′-methoxybenzophenone | 1.6 g | BrC=1C=CC(=C(C(=O)C2=CC=C(C=C2)OC)C1)C | C15H13BrO2
